US05498619
(1) 3-Phenyl-5-propionylisothiazole
In 30 ml of dry tetrahydrofuran, were dissolved 3.1 g (19.1 mmol) of 3-phenylisothiazole. Under a nitrogen gas stream, the solution was cooled to -78° C. over a dry ice-acetone bath, followed by the dropwise addition of 14.6 ml of n-butyl lithium (1.57 mol/l). After the resultant mixture was stirred for 15 minutes at room temperature, 3.24 g (25 mmol) of propionic anhydride was added. The mixture thus obtained was stirred for 30 minutes, to which a saturated aqueous solution of ammonium chloride and dichloromethane were added at room temperature. The reaction product was thus extracted into an organic layer. The organic layer was collected, dried and then concentrated. The concentrate was purified by silica gel chromatography (eluent: 20:1 n-hexane/ethyl acetate), so that 3-phenyl-5-propionylisothiazole was obtained as colorless oil.

reactant | 3-phenylisothiazole | 19.1 mmol, 3.1 g | C1(=CC=CC=C1)C1=NSC=C1 | C9H7NS
reactant | n-butyl lithium | 1.57 mol/l, 14.6 ml | C(CCC)[Li]
reactant | propionic anhydride | 25 mmol, 3.24 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Phenyl-5-propionylisothiazole | C1(=CC=CC=C1)C1=NSC(=C1)C(CC)=O | C12H11NOS
